US08445684B2
2-[3-[5-[(2(S)-Azetidinyl)methoxy]-3-pyridyl]phenyl]ethanol
In a 100 mL round-bottom flask with magnetic stirrer and H2 balloon, 2-[3-[5-[[1-(benzyloxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]phenyl]ethanol (240 mg, 574 μmol) in MeOH (10 mL) was stirred with 10% Pd/C (50 mg; Alfa Aesar #38305, water content 50%) at room temperature for 130 min. H2 was replaced with Ar, and the catalyst was filtered off over a cotton plug and rinsed with MeOH (2 mL). The solution was evaporated and dried (30° C., oil pump vacuum) to yield the free base as a colorless film. [α]D−1.0, [α]546−1.4 (c 7.35 g/L, MeOH). 1H NMR (CDCl3, TMS, 400 MHz) δ 8.41 (d, 1H, J=1.8 Hz), 8.28 (d, 1H, J=2.8 Hz), 7.45-7.40 (m, 3H), 7.39 (dd, 1H, J=1.8, 2.8 Hz), 7.28 (dt, 1H, J=6.4 Hz (d), 2.1 Hz (t)), 4.31 (m, 1H), 4.12, 4.08 (ABq, 2H, J=9.4 Hz, low-field part d with J=6.2 Hz, high-field part d with J=4.8 Hz), 3.92 (t, 2H, J=6.6 Hz), 3.72 (q, 1H, J=7.9 Hz), 3.48 (m, 1H), 2.95 (t, 2H, J=6.6 Hz), 2.41, 2.29 (ABq, 2H, J=11.0 Hz, low-field part m, high-field part q with J=8.2 Hz), 2.08 (br, NH, OH, and H2O). MS (EI) m/z 284 (M+, 1.9%), 254 (2.2%), 229 (36%), 228 (56%), 199 (10%), 56 (100%).

reactant | 2-[3-[5-[[1-(benzyloxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]phenyl]ethanol | 574 μmol, 240 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)C=1C=C(C=CC1)CCO | C25H26N2O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2-[3-[5-[(2(S)-Azetidinyl)methoxy]-3-pyridyl]phenyl]ethanol | N1[C@@H](CC1)COC=1C=C(C=NC1)C=1C=C(C=CC1)CCO | C17H20N2O2
